US06525064B1
N-[4-(4-amino-6,7-dimethyl-2-propyl-1H-imidazo[4,5-c]pyridin-1-yl)butyl]acetamide was combined with 6 N hydrochloric acid (75 mL) in a pressure vessel. The vessel was sealed and then heated at 100° C. overnight. An additional 1 mL of 6 N hydrochloric acid was added and heating was continued for 6 more hours. The reaction mixture was allowed to cool to ambient temperature overnight and then it was extracted with ethyl acetate (×2). The aqueous layer was cooled in an ice bath, made basic (pH 13) with 50% sodium hydroxide, saturated with sodium chloride, and then extracted with chloroform (×3). The combined organics were washed with brine, dried over magnesium sulfate and then concentrated under reduced pressure to provide 0.98 g of 1-(4-aminobutyl)-6,7-dimethyl-2-propyl-1H-imidazo[4,5-c]pyridin-4-amine as a tan solid.

reactant | N-[4-(4-amino-6,7-dimethyl-2-propyl-1H-imidazo[4,5-c]pyridin-1-yl)butyl]acetamide | NC1=NC(=C(C2=C1N=C(N2CCCCNC(C)=O)CCC)C)C | C17H27N5O
reactant | hydrochloric acid | 6 N, 75 mL | Cl | ClH
reactant | hydrochloric acid | 6 N, 1 mL | Cl | ClH
product | 1-(4-aminobutyl)-6,7-dimethyl-2-propyl-1H-imidazo[4,5-c]pyridin-4-amine | 0.98 g | NCCCCN1C(=NC=2C(=NC(=C(C21)C)C)N)CCC | C15H25N5
